* ============================================================
* Testbench: Coarse/Fine Controller SPICE Characterization
* ============================================================

* --- Technology models ---
.lib "__PDK_ROOT__/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* --- Post-layout extracted netlist ---
.include "__NETLIST_PATH__"

* ============================================================
* Parameters & Supplies
* ============================================================
.param vdd_val     = 1.8
.param clk_period  = 2n
.param half_period = {clk_period / 2}
.param rise_fall   = 50p
.param vthresh     = {vdd_val / 2}

Vdd  VPWR 0 DC vdd_val
Vss  VGND 0 DC 0

* ============================================================
* Clock Signal
* ============================================================
Vclk clk_node VGND PULSE(0 vdd_val 0 rise_fall rise_fall half_period clk_period)

* ============================================================
* Reset Signal
* ============================================================
* High for first 4ns (2 clock cycles), then released.

Vrst rst_node VGND PWL(
+   0.0n  vdd_val
+   3.9n  vdd_val
+   4.0n  0
+ )

* ============================================================
* Stimulus: UP/DOWN sequences (2ns clock, same cycle counts)
* ============================================================
*   Phase 1  ( 4ns -  44ns):  UP=1, DOWN=0  — 20 cyc coarse acquisition
*   Phase 2  (44ns -  84ns):  UP=0, DOWN=0  — 20 cyc idle (triggers mode switch)
*   Phase 3  (84ns - 124ns):  UP=1, DOWN=0  — 20 cyc fine mode response
*   Phase 4  (124ns- 164ns):  UP=0, DOWN=1  — 20 cyc fine mode reverse
*   Phase 5  (164ns- 180ns):  UP=0, DOWN=0  — 8 cyc idle

Vup   up_node   VGND PWL(
+   0      0
+   3.9n   0
+   4n     vdd_val
+   43.9n  vdd_val
+   44n    0
+   83.9n  0
+   84n    vdd_val
+   123.9n vdd_val
+   124n   0 )

Vdown down_node VGND PWL(
+   0      0
+   123.9n 0
+   124n   vdd_val
+   163.9n vdd_val
+   164n   0 )

* ============================================================
* DUT Instantiation
* ============================================================
* IMPORTANT: Verify port order against your extracted netlist.
*   .subckt line in the netlist defines the actual order.
*   The resulting spice list from LibreLane orders ports in alphabetical order

Xdut VGND VPWR clk_node ctrl0 ctrl1 ctrl2 ctrl3 ctrl4 ctrl5 down_node rst_node up_node controller

* Small load caps on each output bit (wiring + downstream gate cap)
Cload0 ctrl0 VGND 5f
Cload1 ctrl1 VGND 5f
Cload2 ctrl2 VGND 5f
Cload3 ctrl3 VGND 5f
Cload4 ctrl4 VGND 5f
Cload5 ctrl5 VGND 5f

* ============================================================
* Simulation Control
* ============================================================
.tran 500p 180n

* ============================================================
* Output & Control
* ============================================================
.control
run

wrdata __RESULTS_DIR__/__RESULT_NAME__ v(clk_node) v(rst_node) v(up_node) v(down_node) v(ctrl0) v(ctrl1) v(ctrl2) v(ctrl3) v(ctrl4) v(ctrl5)

quit
.endc
.end
